US07943768B2
8-Pyridin-2-yl-1,4-dioxaspiro[4.5]decan-8-ol (1.44 g) was dissolved in tetrahydrofuran (25 ml). 2M hydrochloric acid (25 ml) was added and the solution stirred at room temperature overnight. The THF was removed in vacuo and remaining solution made basic with 2M aqueous sodium hydroxide and partitioned with dichloromethane (2×100 ml). Combined organics were dried (sodium sulphate) and concentrated in vacuo to give 4-hydroxy-4-pyridin-2-ylcyclohexanone as an off-white solid (1.07 g, 92%).

reactant | 8-Pyridin-2-yl-1,4-dioxaspiro[4.5]decan-8-ol | 1.44 g | N1=C(C=CC=C1)C1(CCC2(OCCO2)CC1)O | C13H17NO3
reactant | hydrochloric acid | 2M, 25 ml | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-hydroxy-4-pyridin-2-ylcyclohexanone | 1.07 g, 92% | OC1(CCC(CC1)=O)C1=NC=CC=C1 | C11H13NO2
